Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Confusion  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 ___ with history of alcohol abuse who presents for altered 
mental status on ___.  
 Per report, she was on ___ at ___ 
___ for alcohol detox. They felt that she was acting 
bizarre today so they referred her to ___. The patient seemed 
to be confabulating and she was confident stating that she is to 
be at a play and came from a place where they are working on a 
project. She stated that she has not wearing shoes that she has 
no keys or car or telephone. She wished to have those so she can 
go to the play.  
 In the ED, initial vitals: 36.7 88 153/100 16 97% RA  
 - Exam notable for: AOx1 (self), hallucinating  
 - Labs notable for: Na 131, negative serum/urine tox, UA with 
mod leuks, mod blood, 11 WBC, few bacteria, 5 epi  
 - Imaging notable for: normal NCHCT, normal CXR  
 - Patient was given:  
 ___ 21:47 PO Multivitamins 1 TAB  
 ___ 21:47 PO FoLIC Acid 1 mg  
 ___ 21:55 PO Lorazepam 1 mg  
 ___ 22:11 IV Thiamine 500 mg  
 - Vitals prior to transfer: 97.8 92 156/116 18 99% RA  
 On arrival to the floor, pt says that her last drink was 8 days 
ago. She was binging for four to five days before presenting for 
detox. She says that she was at detox receiving Ativan. She does 
not agree with the "12 step method." Since being at the detox 
center, she started hearing voices about a cousin who passed 
away. These voices would keep her up at night. She says that she 
has not been sleeping for the past six days and that is why she 
is "out of it." Throughout our conversation, she was falling 
asleep and often answering questions inappropriately. She says 
that she may have had alcohol withdrawal seizures in the past 
but is not sure.  

 
Past Medical History:
She is unable to answer this question appropriately.  
 Alcohol abuse  
 HTN 
 
Social History:
___
Family History:
 Mother and father with alcohol abuse  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 Vitals: 97.4 171 / 134 84 18 94 RA  
 General: Alert, not oriented to place, oriented to year and 
person  
 HEENT: Sclera anicteric, MMM  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema, no asterixis, 
no tremor with hands outstretched  
 Skin: Without rashes or lesions  
 Neuro: No nystagmus. CN ___ intact. Moving all four 
extremities spontaneously.  

DISCHARGE PHYSICAL EXAM
VS:  98.1
PO 100 / 61 80 16 96 RA 
GEN: well appearing, no acute distress
HEENT: no scleral icterus
CV: rrr, no m/r/g
PULM: lungs clear bilaterallyl
ABD: soft, NT/ND +bs
EXT: warm, no edema
NEURO: No nystagmus. CN ___ intact. Moving all four extremities 
spontaneously.  
PSYCH: Sleepy, but answers questions. Oriented to person, place 
(___), not time. Tangential when telling stories. Judgment 
and insight not intact.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:30PM BLOOD WBC-8.4 RBC-4.34 Hgb-12.3 Hct-36.0 MCV-83 
MCH-28.3 MCHC-34.2 RDW-13.7 RDWSD-39.9 Plt ___
___ 04:30PM BLOOD Neuts-56.8 ___ Monos-10.7 Eos-3.3 
Baso-0.4 Im ___ AbsNeut-4.76 AbsLymp-2.40 AbsMono-0.90* 
AbsEos-0.28 AbsBaso-0.03
___ 04:30PM BLOOD Glucose-115* UreaN-16 Creat-0.6 Na-131* 
K-3.9 Cl-90* HCO3-27 AnGap-18
___ 04:30PM BLOOD ALT-63* AST-68* AlkPhos-50 TotBili-0.7
___ 04:30PM BLOOD Albumin-4.5
___ 04:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS:
================
___ 06:10AM BLOOD WBC-7.1 RBC-4.24 Hgb-11.4 Hct-35.6 MCV-84 
MCH-26.9 MCHC-32.0 RDW-14.0 RDWSD-41.1 Plt ___
___ 06:10AM BLOOD Glucose-98 UreaN-15 Creat-0.6 Na-139 
K-3.6 Cl-94* HCO3-29 AnGap-20
___ 06:10AM BLOOD ALT-59* AST-45* AlkPhos-48 TotBili-0.6
___ 06:10AM BLOOD Albumin-3.9 Calcium-9.4 Phos-5.6* Mg-2.2
___ 06:10AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Negative
___ 06:10AM BLOOD HCV Ab-Negative

IMAGING:  
=========
 CXR ___  
 IMPRESSION:  
 No acute cardiopulmonary process.  

 CT head w/o contrast ___:  
 IMPRESSION:  
 Normal study.  
 
Brief Hospital Course:
___ with history of alcohol abuse who was sectioned 12 prior to 
admission at ___. At that point she 
was sectioned 12 on ___ (signed at 9AM), transferred to ___ 
with acute confusion and hypertension.

# ACUTE ENCEPHALPATHY: Initially, differentia diagnosis included 
Wernicke encephalopathy, hospital delirium, infection, or 
primary psychiatric disorder. She has no evidence of infection, 
U/A was clear. The most likely etiology is underlying 
psychiatric disorder, complicated by receiving high doses of 
Haldol & Ativan, which made her somnolent. Her tox screen was 
negative, pointing against ingetion. Na of 131 is unlikely to 
cause this degree of confusion. No current evidence of 
withdrawal and given that last drink was over one week ago, 
unlikely.  Recommend returning back to psychiatric facility for 
management of primary psychiatric disorder without underlying 
additional medical illness.

# ETOH ABUSE: Patient was monitored on ___, and did not score 
or need benzo's on the floor. She received thiamine, folate, and 
multivitamin and was counseled to stop drinking.

# Hyponatremia - Given concurrent hypochloremia, possibly due to 
decreased PO intake.  Received a fluid bolus, and it resolved. 

# Hypertension: Continue home Labetalol 200mg BID, 
Hydrochlorothiazide 25mg daily. 

# Transaminitis-Likely secondary to alcohol use. Hepatitis 
serologies negative for Hep A, hep B, Hep C. 

# Bacterial vaginitis: Topical metronidazole ___. 

TRANSITIONAL ISSUES:
======================
- Patient needs vaccination against hepatitis B.
- Encourage ETOH cessation
- Recommend transfer back to psychiatric facility for ongoing 
management of psychiatric illness including hallucinations 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Thiamine 100 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Labetalol 200 mg PO BID 
6. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Labetalol 200 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Omeprazole 40 mg PO DAILY  
7.  RisperiDONE 2 mg PO DAILY  
8.  ValACYclovir 500 mg PO DAILY:PRN herpes  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnosis: Altered mental status
Secondary diagnosis: Bipolar disorder, alcohol use disorder, 
transaminitis, hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from your psychiatric facility 
because you became confused. We made sure you did not have an 
infection and that you were not withdrawing from alcohol. After 
you got some rest, you began to feel better. You will go to a 
psychiatric facility for further treatment of your bipolar 
disorder and your hallucinations. 

You also had an elevated blood pressure. When we restarted your 
home Labetalol and Hydrochlorothiazide. Your blood pressure 
improved.

Please continue all of your home medications. It was a pleasure 
taking care of you. 

Your ___ Team
 
Followup Instructions:
___